US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-methoxythiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-2-(5-methoxythiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (2 g, 4.4 mmol) was reacted with NBS (0.78 g, 4.4 mmol) in DCM (50 mL) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.80 g, 34%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(5-methoxythiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 4.4 mmol, 2 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)OC | C18H17BrFN3O3S
reactant | NBS | 4.4 mmol, 0.78 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-methoxythiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.80 g, 34% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=CN1)OC | C18H16Br2FN3O3S
